US05143912
A suspension of 9.0 g of 4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxylic acid in 240 ml of dioxane was treated in succession with 6.7 ml of 2-(dimethylamino)ethanol, 15.7 g of 1H-1-benzotriazolyloxy-tris(dimethylamino)phosphonium hexafluorophosphate and 263 mg of 4-dimethylaminopyridine, whereupon the mixture was heated to boiling under reflux for 80 minutes under argon, treated with 1.58 g of 1-benzotriazolyloxy-tris(dimethylamino)phosphonium hexafluorophosphate and heated for a further 1 hour. The mixture was then left to cool and the separated crystals were filtered off under suction. After stirring with 890 ml of methylene chloride, 475 ml of water and 70 ml of saturated sodium hydrogen carbonate solution for 90 minutes the organic phase was separated and evaporated. The residue was dissolved in 100 ml of methanol, whereupon the solution was acidified with etheral hydrochloric acid, filtered and the product was precipitated by cooling in an ice bath. There was obtained 2.9 g of 2-(dimethylamino)ethyl 4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxylate as yellowish crystals with a m.p. of 225°-228°.

reactant | 4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxylic acid | 9.0 g | O=C1C(=CC(=C2N1CC1=CC=CC=C21)C(=O)O)C2=CC=CC=C2 | C19H13NO3
reactant | 2-(dimethylamino)ethanol | 6.7 ml | CN(CCO)C | C4H11NO
reactant | 1H-1-benzotriazolyloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 15.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1-benzotriazolyloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 1.58 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dioxane | 240 ml | O1CCOCC1 | C4H8O2
catalyst | 4-dimethylaminopyridine | 263 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(dimethylamino)ethyl 4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxylate | 2.9 g | O=C1C(=CC(=C2N1CC1=CC=CC=C21)C(=O)OCCN(C)C)C2=CC=CC=C2 | C23H22N2O3
